US07166616B2
[1-(4-amino-phenyl)-indan-1-yl]-acetic acid methyl ester
[1-(4-(Benzhydryl-amino)-phenyl)-indan-1-yl]-acetic acid methyl ester [(0.15 g, Reference Example 19(b)] was treated with a mixture of trifluoroacetic acid (9 mL) and water (1 mL). The resulting deep red solution was stirred at 50° C., under argon, for 2 hours and then evaporated. The residue was chased with toluene (25 mL) and then placed under vacuum to give the title compound (0.19 g) as a red gum. LC-MS: RT=2.54 minutes, MS(ES+): 282(M+H)+. This material was used immediately for the preparation of Reference Example 9(b).

reactant | [1-(4-(Benzhydryl-amino)-phenyl)-indan-1-yl]-acetic acid methyl ester | COC(CC1(CCC2=CC=CC=C12)C1=CC=C(C=C1)NC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C31H29NO2
reactant | trifluoroacetic acid | 9 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 1 mL | O | H2O
product | [1-(4-amino-phenyl)-indan-1-yl]-acetic acid methyl ester | 0.19 g | COC(CC1(CCC2=CC=CC=C12)C1=CC=C(C=C1)N)=O | C18H19NO2
